US08022223B2
Step A: Preparation of tert-butyl 4-(2-(methoxy(methyl)amino)-2-oxoethyl)piperidine-1-carboxylate:
N-methoxymethanamine hydrochloride (2.61 g, 26.7 mmol), N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (5.91 g, 30.8 mmol), 1H-benzo[d][1,2,3]triazol-1-ol hydrate (4.72 g, 30.8 mmol), and triethylamine (11.5 mL, 82.2 mmol) were added sequentially to a solution of 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)acetic acid (5.00 g, 20.6 mmol) in methylene chloride (150 mL) at 0° C. Stirred at ambient temperature for 4 hours, and partitioned between ethyl acetate and 2N HCl. Washed the organic layer again with 2N HCl, twice with 2N NaOH, brine, dried, and concentrated to afford the title compound (5.93 g, 101% yield) as a clear colorless viscous oil.

reactant | N-methoxymethanamine hydrochloride | 26.7 mmol, 2.61 g | Cl.CONC
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 30.8 mmol, 5.91 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1H-benzo[d][1,2,3]triazol-1-ol hydrate | 30.8 mmol, 4.72 g | O.N1(N=NC2=C1C=CC=C2)O
reactant | triethylamine | 82.2 mmol, 11.5 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)acetic acid | 20.6 mmol, 5.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(=O)O | C12H21NO4
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(2-(methoxy(methyl)amino)-2-oxoethyl)piperidine-1-carboxylate | 5.93 g, 101% yield | CON(C(CC1CCN(CC1)C(=O)OC(C)(C)C)=O)C | C14H26N2O4
